US07259262B2
A suspension of 2.40 g (10 mmol) 4-chloromethyl-2-(4-methoxy-phenyl)-thiazole, 1.02 g (15 mmol) imidazole, 0.17 g (1 mmol) potassium iodide and 0.60 g (15 mmol) sodium hydroxide in 25 ml 2-methyl-2-butanol was stirred at 120° C. for 5 h. After evaporation, the residue was quenched with water and extracted with ethyl acetate. The extract was dried and concentrated to yield 2.47 g (91%) 1-[2-(4-methoxy-phenyl)-thiazol-4-ylmethyl]-imidazole as beige crystals, melting at 89-90° C.

reactant | 4-chloromethyl-2-(4-methoxy-phenyl)-thiazole | 10 mmol, 2.40 g | ClCC=1N=C(SC1)C1=CC=C(C=C1)OC | C11H10ClNOS
reactant | imidazole | 15 mmol, 1.02 g | N1C=NC=C1 | C3H4N2
reactant | potassium iodide | 1 mmol, 0.17 g | [I-].[K+]
reactant | sodium hydroxide | 15 mmol, 0.60 g | [OH-].[Na+]
solvent | 2-methyl-2-butanol | 25 ml | CC(C)(CC)O | C5H12O
product | 1-[2-(4-methoxy-phenyl)-thiazol-4-ylmethyl]-imidazole | 2.47 g, 91% | COC1=CC=C(C=C1)C=1SC=C(N1)CN1C=NC=C1 | C14H13N3OS
